US04962230
In a 200 ml autoclave, the inside atmosphere of which had previously been replaced with argon, were placed 3.0 g (17.6 mmoles) of 2-methylenenonanoic acid and 50 ml of ethanol. Then, 6.9 mg (0.007 mmole) of [Ru((-)-T-BINAP)](ClO4)2 prepared according to the same manner as in Referential Example 6 except using (-)-T-BINAP in place of (+)-T-BINAP was added to the mixture to perform hydrogenation for 15 hours at a hydrogen pressure of 30 kg/cm2 and at a reaction temperature of 20° C. Thereafter, the solvent was distilled off to provide 3.0 g of 2-methylnonanoic acid. The theoretical yield (hereafter simply referred to as "yield") was 100%.

reactant | 2-methylenenonanoic acid | 17.6 mmoles, 3.0 g | C=C(C(=O)O)CCCCCCC | C10H18O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-methylnonanoic acid | 3.0 g | CC(C(=O)O)CCCCCCC | C10H20O2
